US07935702B2
11. 1-(5-Bromo-3-(trifluoromethyl)pyridin-2-yl)ethanone
Dissolve 1-(5-bromo-3-(trifluoromethyl)pyridin-2-yl)ethanol (3.75 g, 0.01394 moles) in anhydrous THF (75 mL) and add MnO2 (12.1-24.2 g, 10 to 20 eq) at room temperature. Reflux the mixture under N2 atmosphere for 3 days. Cool the reaction mixture, filter through celite, wash the celite with THF (3×50 mL) and then concentrate under vacuum to afford the title compound as a colorless yellow oil.

reactant | 1-(5-bromo-3-(trifluoromethyl)pyridin-2-yl)ethanol | 0.01394 moles, 3.75 g | BrC=1C=C(C(=NC1)C(C)O)C(F)(F)F | C8H7BrF3NO
solvent | THF | 75 mL | C1CCOC1 | C4H8O
catalyst | MnO2 | 12.1-24.2 g, 10 to 20 eq | O=[Mn]=O
product | 1-(5-Bromo-3-(trifluoromethyl)pyridin-2-yl)ethanone | BrC=1C=C(C(=NC1)C(C)=O)C(F)(F)F | C8H5BrF3NO
